US06194406B1
Prepare by the method of Preparation 28 using triazole (0.045 g, 1.13 mmol) and 1-(t-butoxycarbonyl)-4-(1-(2-methanesulfonyloxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepane (0.33 g, 0.75 mmol) to give 1-(t-butoxycarbonyl)-4-(1-(2-(1H-triazol-1-yl)ethyl)-1H-benzimidazol-2-yl)[1,4]diazepane: Rf=0.32 (silica gel, 5% methanol/dichloromethane/0.5% concentrated aqueous ammonia).

reactant | triazole | 1.13 mmol, 0.045 g | N1N=NC=C1 | C2H3N3
reactant | 1-(t-butoxycarbonyl)-4-(1-(2-methanesulfonyloxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepane | 0.75 mmol, 0.33 g | C(C)(C)(C)OC(=O)N1CCN(CCC1)C1=NC2=C(N1CCOS(=O)(=O)C)C=CC=C2 | C20H30N4O5S
product | 1-(t-butoxycarbonyl)-4-(1-(2-(1H-triazol-1-yl)ethyl)-1H-benzimidazol-2-yl)[1,4]diazepane | C(C)(C)(C)OC(=O)N1CCN(CCC1)C1=NC2=C(N1CCN1N=NC=C1)C=CC=C2 | C21H29N7O2
